US04966905
To a solution of 3-methyl-5-acetoxy-isoxazole (14 g, 112 mM) in diethyl ether (400 mL) at 0° C., was added a 3M solution of phenylmagnesium bromide in diethyl ether (44.7 mL, 134 mM) dropwise. After the addition was complete, the reaction mixture was stirred for 30 minutes. When pH 7 buffer (100 mL) was added, the layers were separated. The aqueous layer was extracted with diethyl ether (2×75 mL). The combined ethereal extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give 3-methyl-5-(1-hydroxy-1-phenylethyl)-isoxazole as an amber oil (20.2 g, 89%) that was used without further purification.

reactant | 3-methyl-5-acetoxy-isoxazole | 112 mM, 14 g | CC1=NOC(=C1)OC(C)=O | C6H7NO3
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | diethyl ether | 400 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 134 mM, 44.7 mL | C(C)OCC | C4H10O
product | 3-methyl-5-(1-hydroxy-1-phenylethyl)-isoxazole | 20.2 g, 89% | CC1=NOC(=C1)C(C)(C1=CC=CC=C1)O | C12H13NO2
